US04661501
Triphenylphosphine and a slightly excessive amount of 3-phenoxy-4-fluorobenzyl bromide were mixed into benzene in a flask at -10° C. The tightly stoppered flask was allowed to stand at room temperature overnight to give crystals. The crystals were collected by filtration, washed with benzene and dried. 40 ml mol of the obtained bromide was added to a solution of 40 m mol phenyllithium in 150 ml of dry ether in a stream of nitrogen gas, and the mixture was stirred in a stream of nitrogen gas for three hours. The precipitated lithium bromide was filtered off, and to the filtrate, 40 m mol of 3-(4-ethoxyphenyl)-3-methyl-butylaldehyde was added with cooling, and the mixture was heated to remove ether and stirred at 65° C. for three hours. Then, the reaction mixture was poured into water and extracted with benzene, and the benzene extract was washed with water and dried, and the solvent was evaporated, and the residue was purified by column chromatography on silica gel to give 1-(3-phenoxy-4-fluorophenyl)-4-(4-ethoxyphenyl)-4-methyl-1-pentene.

reactant | Triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-phenoxy-4-fluorobenzyl bromide | O(C1=CC=CC=C1)C=1C=C(CBr)C=CC1F | C13H10BrFO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-(3-phenoxy-4-fluorophenyl)-4-(4-ethoxyphenyl)-4-methyl-1-pentene | O(C1=CC=CC=C1)C=1C=C(C=CC1F)C=CCC(C)(C)C1=CC=C(C=C1)OCC | C26H27FO2
